US08198285B2
3-Aminopyrazine-2-carboxylic acid methyl ester (1 kg), N-bromosuccinimide (1.162 kg and acetonitrile (8 L) were charged into reactor. The mixture was stirred at room temperature for 10 min, heated to 75-80° C. and held for 2-3 hours under slightly refluxing conditions. The mixture was cooled to 25° C. and evaporated to dryness on a rotary evaporator. The resulting dark solids were redissolved in dichloromethane (20 L) and activated carbon (100 g) was charged. The resulting suspension was stirred at 25° C. for 30-60 minutes before filtering to remove insolubles. The filtrate was subsequently washed with saturated Na2SO3 (3×5 L) aqueous solution and water (5 L). The Organic layers were collected after phase separation. Dichloromethane was removed on rotary evaporator and Methyl 3-amino-6-bromopyrazine-2-carboxylate was obtained as a brown solid which was used in the next step without further purification (wet product 1090 g).

reactant | 3-Aminopyrazine-2-carboxylic acid methyl ester | 1 kg | COC(=O)C1=NC=CN=C1N | C6H7N3O2
reactant | N-bromosuccinimide | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | acetonitrile | 8 L | C(C)#N | C2H3N
product | Methyl 3-amino-6-bromopyrazine-2-carboxylate | NC=1C(=NC(=CN1)Br)C(=O)OC | C6H6BrN3O2
